US04255429
The starting material is prepared as follows: The mixture of 23.5 g of 4- aminopyridine, 38.5 g of cis-1,2-cyclohexanedicarboxylic acid anhydride and 400 ml of xylene is refluxed for 42 hours while stirring and separating the water formed. After the first half-hour, and after 18 hours, 1 ml of methane sulfonic acid is added to the mixture. It is filtered hot, the crystals formed after cooling are filtered off and recrystallized from isopropanol, to yield the 2-(4-pyridyl)-hexahydroisoindole-1,3-dione melting at 165°-168°.

reactant | 4- aminopyridine | 23.5 g | NC1=CC=NC=C1 | C5H6N2
reactant | cis-1,2-cyclohexanedicarboxylic acid anhydride | 38.5 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | methane sulfonic acid | 1 ml | CS(=O)(=O)O | CH4O3S
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-pyridyl)-hexahydroisoindole-1,3-dione | N1=CC=C(C=C1)N1C(C2CCCCC2C1=O)=O | C13H14N2O2
